Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Tylenol / sulfur dioxide
 
Attending: ___.
 
Chief Complaint:
Right leg pain and weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with past history
of a motorcycle accident in ___ which required two surgeries to
his cervical spine (___ in ___ and lumbar spine 
(L1-L3
laminectomy and fusion also in ___ ___ who presented as a
transfer from ___ with concern for traumatic cord
compression.  Per the patient's report, he had been in his usual
state of health prior to the evening of ___ at 0000hrs at
which time he was walking down his stairs and fell over his dog
resulting in impact to the sacral bone multiple times "like a
child riding down steps on his bottom."  He noted immediate pain
which felt like a shock in a sciatic pattern down the right leg,
which caused him to hop a number of times.  He was able to
ambulate without trouble, just persistent pain to the lower back
which was mild-moderate.  

On waking up in the morning through the early afternoon, he 
noted
the sensation of "pins and needles" in the right leg and some
weakness, but could ambulate.  In the early afternoon he noted
the paresthesia had worsened and while watching TV had an 
episode
of urinary incontinence which he felt no urge, or sensation of
voiding.  This prompted presentation to the ED at ___ 
___
where a second episode of urinary incontinence only with a hint
of urge prior to void was experienced.  A CT of the lumbar spine
was suggestive of disk disease which combined with his
presentation was concerning for cord compression for which
transfer to ___ was initiated and a code cord was called on
arrival.
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  No bowel incontinence or
retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  Denies rash.
 
Past Medical History:
- Motorcycle accident in ___ with anterior cervical fusion C5-7 
and L4-S1 Laminectomy and fusion with some residual pain
- Type I Diabetes (diagnosed approx ___ years PTA)
 
Social History:
___
Family History:
- Negative for any history of neurologic illness
 
Physical Exam:
Admission exam:
___ in ___ back, T=98.0F, HR=95, BP=108/53, RR=16,
SaO2=97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, obese
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Pt. was able to name both high and low frequency
objects.  Able to read without difficulty.  Speech was not
dysarthric.  Able to follow both midline and appendicular
commands.  Attentive, with good knowledge of current events. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation. Funduscopic exam revealed no
papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch, pinprick in all
distributions, and ___ strength noted bilateral in masseter
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  5  *4+  ___    5     5   5
R  ___   ___  5  ___   2    2     1   1
* possibly confounded by lower back pain
- Rectal tone intact with good sensation

-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     1    1
- Plantar response was flexor on left, equivocal on right.
- Pectoralis Jerk was absent, and Crossed Adductors are absent. 
 
-Sensory: Marked deficits to light touch, pinprick, cold
sensation, vibratory sense, proprioception in right lower
extremity from hip joint downward. No extinction to DSS.  All
modalities were intact in the remainder of the body.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Did not assess ___ pain and weakness in RLE.
 .
Discharge Exam:
99.1 98.3 ___ 18 94-97% RA
General: Comfortable in bed, NAD, ND NT.
HEENT: NC/AT, OP clear
Pulmonary: CTAB no rales rhonchi or wheeze
Cardiac: RRR, no murmurs rubs or gallops
Abdomen: soft, nontender, obese
Extremities: no edema, cyanosis, or clubbing. warm and well 
perfused
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Speech was not dysarthric.  Able to follow both midline 
andappendicular
commands.  Attentive, with good knowledge of current events. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. Fundoscopy deferred. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch, temperature in all
distributions, and ___ strength noted bilateral in masseter
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically, no dysphonia.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5

-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    1
R   2    2     2     2    1
- Plantar response was flexor on left and right.
 
-Sensory: The majority of the right leg distal to the inguinal 
fold is approximately 85% to touch and temperature as compared 
to the left with the exception of the ___ and ___ toes, which 
are approximately 20% of their counterparts on the left. 
Proprioception is mildly affected and vibratory sense moderately 
affected. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Able to ambulate self with crutches.
 
 
Pertinent Results:
Admission results:

___ 10:50PM BLOOD WBC-10.1 RBC-5.36 Hgb-16.1 Hct-44.2 
MCV-83 MCH-30.0 MCHC-36.3* RDW-13.1 Plt ___
___ 10:50PM BLOOD Neuts-60.0 ___ Monos-4.5 Eos-3.7 
Baso-1.3
___ 10:50PM BLOOD Plt ___
___ 06:41AM BLOOD ___ PTT-33.6 ___
___ 10:50PM BLOOD Glucose-266* UreaN-11 Creat-0.6 Na-138 
K-4.6 Cl-103 HCO3-24 AnGap-16
___ 06:41AM BLOOD Calcium-8.9 Phos-3.9 Mg-1.8
.
Reports
MRI C/T/L Spine ___
The study limited by motion artifact.
There are postsurgical changes from anterior fusion of C5-C7.  
There are mild disc osteophyte complexes in the cervical spine 
without significant canal stenosis.  
 .
The thoracic spine is unremarkable.
 .
There are postsurgical changes from posterior fusion of L4-S1.  
There is no
significant canal stenosis.  There are degenerate changes of the 
lower lumbar
spine.  
 .
The coccyx is not imaged.
 .
IMPRESSION:
The study limited by motion artifact.  No evidence of cord 
compression.
.
MRI ___
FINDINGS:
The study is somewhatlimited by motion artifact. Alignment of 
the lumbar spine is normal.  The conus medullaris ends at L1.  
The patient is status post laminectomy and fusion from L4-S1.  
There are postoperative changes at these levels.  Otherwise, 
vertebral body and intervertebral disc signal intensity appears 
normal.  There is no evidence of significant encroachment on the 
thecal sac.
 .
Artifacts from the fusion hardware compromise images of the 
neural foramina at L4-5 and L5-S1.  However, there is no 
evidence of nerve root compression, foraminal narrowing, or 
thecal sac compromise.  There is expected postoperative 
enhancement, with no evidence of infection.
 .
IMPRESSION:
 
Technically limited study due to motion artifact.  Status post 
laminectomy and fusion L4-S1.  No evidence of conus medullaris 
or thecal sac compression.
 
Brief Hospital Course:
___ h/o cervical + lumbar lami-fusion presenting s/p 
sacral/lumbar trauma with right leg weakness/numbness and 
urinary incontinence concerning for conus medullaris syndrome 
but with MRI L-spine negative x2 for conus/cauda/cord 
compression. He was diagnosed with a CONUS MEDULLARIS CONTUSION, 
the pain and weakness from which resolved during his 
hospitalization. The day after admission, his urinary symptoms 
normalized and did not recur.
.
ACTIVE ISSUES
# CONUS MEDULLARIS CONTUSION: The patient had severe pain and 
weakness of the right leg along with urinary incontinence after 
sliding down a flight of stairs on his buttocks. There was 
concern for conus medullaris syndrome but MRI was negative x2 
for conus/cauda pathology. The day after admission, his urinary 
symptoms normalized and did not recur. His pain and weakness 
improved slowly. He was eventually able to mobilize himself with 
crutches. His pain requirements were substantial and he required 
standing gabapentin (3600mg total daily dose) and oxycontin 
(80mg BID) with hydromorphone PO 4mg q4:PRN breakthrough pain. 
While in house, he also received frequent IV Dilaudid, reaching 
doses as high as 2.125mg q3h. He was given a prescription for 
outpatient physical therapy.
.
# DM1: Asymptomatic, sugars above goal on admission. His 
metformin was held while in house. Lantus was increased from 20 
to 22 and then to 25. His sugars remained high, often in the 
200s and 300s. He was sent home on his metformin with Lantus 25 
HS and his pre-admission Humalog sliding scale. 
.
INACTIVE ISSUES
NONE
.
TRANSITIONAL ISSUES
# CONUS MEDULLARIS CONTUSION: Followed for increased mobility, 
continued absence of bowel/bladder symptoms. Wean analgesics as 
possible.
.
# DM1: Please follow for euglycemia; adjust insulin/metformin as 
needed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Glargine 20 Units Bedtime
3. HumaLOG *NF* (insulin lispro) 100 unit/mL Subcutaneous 
unknown 
sliding scale but details unknown 

 
Discharge Medications:
1. HumaLOG *NF* (insulin lispro) 100 unit/mL Subcutaneous 
unknown 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Glargine 25 Units Bedtime
4. Gabapentin 1200 mg PO Q8H 
RX *gabapentin 600 mg 2 tablet(s) by mouth every 8 hours Disp 
#*45 Capsule Refills:*1
5. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
RX *hydromorphone 4 mg 1 tablet(s) by mouth every four hours 
Disp #*30 Tablet Refills:*0
6. OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
RX *oxycodone [OxyContin] 80 mg 1 tablet extended release 12 
hr(s) by mouth every 12 hours Disp #*30 Tablet Refills:*0
7. Outpatient Physical Therapy
Outpatient physical therapy for right leg strength and balance 
exercises.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Conus medullaris contusion
Secondary diagnosis: Diabetes mellitus, type 1
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to the 
___. As you recall, you were admitted 
after trauma causing a bruise at the end of your spinal cord. 
You are already recovering well. You are scheduled for follow-up 
with the neurology department as detailed below.

Your medication list has changed:
CHANGED MEDICATIONS:
1. INCREASE Lantus to 25 units at night (continue your metformin 
and sliding scale as written - decrease Lantus back to your 
prior dose of 20 units at night if your blood sugars are below 
100 or if you are symptomatic)

NEW MEDICATIONS
1. START oxycontin 80mg every 12 hours (regardless of whether 
you are in pain or not)
2. START dilaudid 4mg every 4 hours by mouth ONLY if you are in 
severe pain.
3. START gabapentin 1200mg every 8 hours regardless of whether 
you are in pain or not

PLEASE NOTE that all of these medications can cause excess 
sedation and depression of your respiratory drive. Do not take 
these medications if you need to do anything that requires you 
to be alert. Do not drink any alcohol or take any other sedating 
medications whil you are on this regimen. 

Please call your primary care physician tomorrow to make an 
appointment to be seen next week. Bring your prescription for 
outpatient physical therapy to this appointment so that you can 
receive a list of available centers near you. Alternatively, you 
can find an outpatient physical therapy center yourself. 

Call your physician immediately or dial 911 if you experience 
any of the "danger signs" below. 
 
Followup Instructions:
___